US20010021791A1
Step c: 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid, methyl ester hydrochloride
Dissolve 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid, methyl ester hydrochloride (550 mg, 1.00 mmol) in methanol (5 mL) and add sodium borohydride (62.8 mg) in three batches. Stir for 1 hour, add 50% aqueous sodium hydroxide (800 mg) and heat to reflux with stirring. After 3 hours, cool to −10° C., add approximately 1.5 mL of 6N HCl over 10 minutes, filter the solid and wash with ice water (12 mL) such that the final filtrate is pH=5. Dry the resulting solid in vacuo (50-60° C., 10-1 mm) overnight to give the title compound (515 mg, 94%); mp 165-180° C.

reactant | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid, methyl ester hydrochloride | 1.00 mmol, 550 mg | Cl.OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium borohydride | 62.8 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 800 mg | [OH-].[Na+]
reactant | HCl | 6N, approximately 1.5 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid, methyl ester hydrochloride | 515 mg, 94% | Cl.OC(C1CCN(CC1)CCCC(O)C1=CC=C(C=C1)C(C(=O)OC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H41NO4.ClH/c1-32(2,31(36)38-3)26-18-16-25(17-19-26)30(35)15-10-22-34-23-20-29(21-24-34)33(37,27-11-6-4-7-12-27)28-13-8-5-9-14-28;/h4-9,11-14,16-19,29-30,35,37H,10,15,20-24H2,1-3H3;1H
